US07495103B2
4-Propoxybenzene-1,3-diamine (D-5) was synthesized following the general scheme above starting from 5-nitro-2-propoxy-phenylamine. Yield (79%). HPLC ret. time 0.54 min, 10-99% CH3CN, 5 min run; ESI-MS 167.5 m/z (MH+).

reactant | 5-nitro-2-propoxy-phenylamine | [N+](=O)([O-])C=1C=CC(=C(C1)N)OCCC | C9H12N2O3
solvent | CH3CN | CC#N | C2H3N
product | 4-Propoxybenzene-1,3-diamine | C(CC)OC1=C(C=C(C=C1)N)N | C9H14N2O
